US06110934
N-(2-Methyl-1,2,3,4-tetrahydroisoquinolin-5-yl)-5-chloro-4-ethoxy-2-methoxybenzamide
The title compound was prepared in an analogous manner to Example 1 from 5-amino-2-methyl-1,2,3,4-tetrahydroisoquinoline and 5-chloro-4-ethoxy-2-methoxybenzoic acid.

reactant | 5-amino-2-methyl-1,2,3,4-tetrahydroisoquinoline | NC1=C2CCN(CC2=CC=C1)C | C10H14N2
reactant | 5-chloro-4-ethoxy-2-methoxybenzoic acid | ClC=1C(=CC(=C(C(=O)O)C1)OC)OCC | C10H11ClO4
product | N-(2-Methyl-1,2,3,4-tetrahydroisoquinolin-5-yl)-5-chloro-4-ethoxy-2-methoxybenzamide | CN1CC2=CC=CC(=C2CC1)NC(C1=C(C=C(C(=C1)Cl)OCC)OC)=O | C20H23ClN2O3
